### PR TITLE
chore(AlgebraicGeometry/EllipticCurve/Projective/Point): remove erws

### PR DESCRIPTION
**Pull request by yuanyi-350**
- rewrites `neg_of_Z_ne_zero` by splitting the `Fin 3` equality and closing the coordinates with `rw`
- rewrites `addXYZ_neg` with `rw` followed by `simp`

Extracted from #38415

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/AlgebraicGeometry/EllipticCurve/Projective/Point.lean [hunk 1]
```diff
@@ -116,8 +116,11 @@ lemma neg_of_Z_eq_zero [NoZeroDivisors R] {P : Fin 3 → R} (hP : W'.Equation P)
 
 lemma neg_of_Z_ne_zero {P : Fin 3 → F} (hPz : P z ≠ 0) :
     W.neg P = P z • ![P x / P z, W.toAffine.negY (P x / P z) (P y / P z), 1] := by
-  erw [neg, smul_fin3, mul_div_cancel₀ _ hPz, ← negY_of_Z_ne_zero hPz, mul_div_cancel₀ _ hPz,
-    mul_one]
+  simp only [neg, smul_fin3, Fin.isValue, Nat.succ_eq_add_one, Nat.reduceAdd, Matrix.cons_val,
+    mul_one, Matrix.vecCons_inj, and_true]
+  constructor
+  · rw [mul_div_cancel₀ _ hPz]
+  · rw [mul_comm, ← div_eq_iff hPz, negY_of_Z_ne_zero hPz, Affine.negY]
```
Comment (dagurtomas) [inline Mathlib/AlgebraicGeometry/EllipticCurve/Projective/Point.lean]:
```suggestion
  simp only [neg, smul_fin3, Matrix.vecCons_inj]
  constructor
  · simp [mul_div_cancel₀ _ hPz]
  · rw [mul_comm]
    simp [← div_eq_iff hPz, negY_of_Z_ne_zero hPz]
```

File: Mathlib/AlgebraicGeometry/EllipticCurve/Projective/Point.lean [hunk 2]
```diff
@@ -148,7 +151,8 @@ lemma addY_neg {P : Fin 3 → R} (hP : W'.Equation P) : W'.addY P (W'.neg P) = -
 
 lemma addXYZ_neg {P : Fin 3 → R} (hP : W'.Equation P) :
     W'.addXYZ P (W'.neg P) = -W'.dblZ P • ![0, 1, 0] := by
-  erw [addXYZ, addX_neg, addY_neg hP, addZ_neg, smul_fin3, mul_zero, mul_one]
+  rw [addXYZ, addX_neg, addY_neg hP, addZ_neg, smul_fin3]
+  simp
```
Comment (dagurtomas) [inline Mathlib/AlgebraicGeometry/EllipticCurve/Projective/Point.lean]:
```suggestion
  simp [addXYZ, addX_neg, addY_neg hP, addZ_neg]
```

**Comment by dagurtomas** [comment]
Remember this section from the contribution guidelines:

> The library has existing occurrences of definitional transparency abuse like erw and extra rfl. PRs removing these are very welcome but their PR description should clearly articulate how the removal is achieved addressing the change in the underlying terms in particular and must benchmark their changes. Please treat this an opportunity to improve the API design of the relevant components.

If there is something you're unsure how to do, like benchmarking the speedup/slowdown of a specific lemma, your LLM can probably figure out how to do it. This applies to all your PRs
